US06235936B1
Synthesis of 6-Chloro-1,2,3,4-tetrahydrocarbazole
N-(4-Chlorophenyl)benzophenone hydrazone (1.0 equiv., 0.5 mmol, 153 mg), cyclohexanone (1.5 equiv., 0.75 mmol, 0.078 mL), and TsOH.H2O (2 equiv., 1.0 mmol, 190 mg) were dissolved in ethanol (3 mL) and heated to reflux for 41 hours. The reaction mixture was then cooled to room temperature, diluted with Et2O (5 mL), neutralized with a saturated NaHCO3 solution, and extracted with Et2O (3×10 mL). The organic extracts were then dried over K2CO3, filtered and concentrated under vacuum. Purification by flash column chromatography (10% EtOAc/Hex) gave the title product as a white solid (94 mg, 0.46 mmol, 91% yield).

reactant | N-(4-Chlorophenyl)benzophenone hydrazone | 0.5 mmol, 153 mg, 1.0 equiv. | ClC1=CC=C(C=C1)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15ClN2
reactant | cyclohexanone | 0.75 mmol, 0.078 mL, 1.5 equiv. | C1(CCCCC1)=O | C6H10O
reactant | TsOH.H2O | 1.0 mmol, 190 mg, 2 equiv. | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethanol | 3 mL | C(C)O | C2H6O
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | 6-Chloro-1,2,3,4-tetrahydrocarbazole | 0.46 mmol, 94 mg, 91% yield | ClC=1C=C2C=3CCCCC3NC2=CC1 | C12H12ClN
